US04177349
In a one-liter, three-neck flask, equipped with a stirrer and dropping funnel, was prepared one mole of sodamide (23.0 g of sodium and iron catalyst) in 700 cc of liquid ammonia. The ammonia was replaced with 589.7 g (4.37 moles) of 4-t-butylpyridine. The mixture was heated to 135° C. at which time the purple reaction mixture began evolving hydrogen. The reaction was continued for 3.1 hours at 135°-149° C. until hydrogen evolution became slow. The reaction mixture was cooled to 100° C. and hydrolyzed with 100 cc of water. The oil layer was separated at 40° C. The aqueous layer was extracted with 50 cc of xylene. The oil layer and xylene extract were charged to a Vigreaux column for distillation. Xylene and about 300 g of unreacted 4-t-butylpyridine were distilled under vacuum. The residue was cooled to room temperature, allowing 4,4'-di-(t-butyl)-2,2'-bipyridyl to crystallize. It was filtered and washed with acetone to give 66.4 g of 4,4'-di-(t-butyl)-2,2'-bipyridyl with a melting point of 159°-160° C.

reactant | sodamide | one mole, 23.0 g | [NH2-].[Na+]
reactant | ammonia | N | H3N
reactant | 4-t-butylpyridine | 4.37 moles, 589.7 g | C(C)(C)(C)C1=CC=NC=C1 | C9H13N
reactant | hydrogen | [H][H] | H2
solvent | water | 100 cc | O | H2O
product | 4,4'-di-(t-butyl)-2,2'-bipyridyl | 66.4 g | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
